** Design1 **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: majed
* Sun, Jun 14, 2020 16:29:38 
*

*## Multisim Component VEE ##*
VEEVEE  VEE 0 dc -7.5

*## Multisim Component R18 ##*
rR18 VCC 16 12000 vresR18  
.model vresR18 r(  )

*## Multisim Component R16 ##*
rR16 VCC vo1 6800 vresR16  
.model vresR16 r(  )

*## Multisim Component VCC ##*
VCCVCC  VCC 0 dc 7.5

*## Multisim Component Q4 ##*
qQ4 16 16 VEE NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component Q2 ##*
qQ2 17 12 15 NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component Q3 ##*
qQ3 15 16 VEE NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component Q1 ##*
qQ1 vo1 10 15 NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component R17 ##*
rR17 VCC 17 6800 vresR17  
.model vresR17 r(  )

*## Multisim Component R13 ##*
rR13 11 0 100000 vresR13  
.model vresR13 r(  )

*## Multisim Component R15 ##*
rR15 12 13 4700 vresR15  
.model vresR15 r(  )

*## Multisim Component R12 ##*
rR12 11 10 4700 vresR12  
.model vresR12 r(  )

*## Multisim Component R14 ##*
rR14 13 0 100000 vresR14  
.model vresR14 r(  )

*## Multisim Component C3 ##*
* !!!BEGIN-INTERACT
*  : delay_factor ++++i2   ;
*  : setval       ++++f4   ;
*  : ratedval     ++++f6   ;
*  : init_cond    ++++f8   ;
*  0          constant  S_OK
*  1e-15      VARIABLE  capblown
*  0.0        VARIABLE  flag
*  0.0        VARIABLE  r1Cur
*  0.0        VARIABLE  c1Voltage
*  0.0        VARIABLE  resistance
*  0          VARIABLE  cnt
*  1          VARIABLE  delaytime
*  0          VARIABLE  S_BLOWN
*
* : DELAY
*  *delaytime  0 do
*          *cnt 1+ ==>_*cnt
*          *cnt *delaytime =  if
*          *S_BLOWN 1 + ==>_*S_BLOWN
*          0 ==>_*cnt
*          endif
*   loop
*   *S_BLOWN ==>_*animation_state
* ;
*
* : RESET
*       delay_factor 10000 * ==>_*delaytime
*       0.0 ==>_*flag
*       0.0 ==>_*c1Voltage
*       0.0 ==>_*r1Cur
*       1e15 ==>_*resistance
*       S_OK   ==>_*animation_state
*       0 ==>_*S_BLOWN
* ;
*
*  :BEGIN_PLOT
*         RESET
*  ;
*
*  : C_BLOWN
*      *capblown  resistance   GRADUAL_CHANGE_AT_RUN
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value     SET_INSTANCE Resistor ::R r1 resistance
*  ;
*
*  :OUT_DATA
*   1.0 *flag f.> if
*     GET_INSTANCE Resistor ::R r1  i  ==>_*r1Cur
*     *r1Cur f.abs 1e30 f.* ==>_*c1Voltage
*     ratedval *c1Voltage f.< if
*          1.0 ==>_*flag
*          DELAY
*          DELAY
*          DELAY
*          DELAY
*          DELAY
*          C_BLOWN
*     endif
*   endif
*  ;
*
* :BEGIN_ANALYSIS
*     RESET
* ;
*
* !!!END-INTERACT
xC3 9 vi1 virtual_capC3
.subckt virtual_capC3 1 2
r1 1 2 1e30
c1 1 2 0.0001  IC=0
.ends

*## Multisim Component R11 ##*
rR11 Vnoise 7 1000 vresR11  
.model vresR11 r(  )

*## Multisim Component R10 ##*
rR10 vm 8 1000 vresR10  
.model vresR10 r(  )

*## Multisim Component R9 ##*
rR9 8 9 1000 vresR9  
.model vresR9 r(  )

*## Multisim Component U4 ##*
xU4 9 8 7 VEE VCC 741__OPAMP__1

*## Multisim Component C1 ##*
* !!!BEGIN-INTERACT
*  : delay_factor ++++i2   ;
*  : setval       ++++f4   ;
*  : ratedval     ++++f6   ;
*  : init_cond    ++++f8   ;
*  0          constant  S_OK
*  1e-15      VARIABLE  capblown
*  0.0        VARIABLE  flag
*  0.0        VARIABLE  r1Cur
*  0.0        VARIABLE  c1Voltage
*  0.0        VARIABLE  resistance
*  0          VARIABLE  cnt
*  1          VARIABLE  delaytime
*  0          VARIABLE  S_BLOWN
*
* : DELAY
*  *delaytime  0 do
*          *cnt 1+ ==>_*cnt
*          *cnt *delaytime =  if
*          *S_BLOWN 1 + ==>_*S_BLOWN
*          0 ==>_*cnt
*          endif
*   loop
*   *S_BLOWN ==>_*animation_state
* ;
*
* : RESET
*       delay_factor 10000 * ==>_*delaytime
*       0.0 ==>_*flag
*       0.0 ==>_*c1Voltage
*       0.0 ==>_*r1Cur
*       1e15 ==>_*resistance
*       S_OK   ==>_*animation_state
*       0 ==>_*S_BLOWN
* ;
*
*  :BEGIN_PLOT
*         RESET
*  ;
*
*  : C_BLOWN
*      *capblown  resistance   GRADUAL_CHANGE_AT_RUN
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value     SET_INSTANCE Resistor ::R r1 resistance
*  ;
*
*  :OUT_DATA
*   1.0 *flag f.> if
*     GET_INSTANCE Resistor ::R r1  i  ==>_*r1Cur
*     *r1Cur f.abs 1e30 f.* ==>_*c1Voltage
*     ratedval *c1Voltage f.< if
*          1.0 ==>_*flag
*          DELAY
*          DELAY
*          DELAY
*          DELAY
*          DELAY
*          C_BLOWN
*     endif
*   endif
*  ;
*
* :BEGIN_ANALYSIS
*     RESET
* ;
*
* !!!END-INTERACT
xC1 4 vi2 virtual_capC1
.subckt virtual_capC1 1 2
r1 1 2 1e30
c1 1 2 0.0001  IC=0
.ends

*## Multisim Component R5 ##*
rR5 Vnoise 3 1000 vresR5  
.model vresR5 r(  )

*## Multisim Component R4 ##*
rR4 vp 2 1000 vresR4  
.model vresR4 r(  )

*## Multisim Component R3 ##*
rR3 2 4 1000 vresR3  
.model vresR3 r(  )

*## Multisim Component U2 ##*
xU2 4 U2_OPEN_IN- 3 VEE VCC 741__OPAMP__1

*## Multisim Component R8 ##*
rR8 6 Vnoise 100 vresR8  
.model vresR8 r(  )

*## Multisim Component R6 ##*
rR6 5 Vnoise 100 vresR6  
.model vresR6 r(  )

*## Multisim Component C2 ##*
* !!!BEGIN-INTERACT
*  : delay_factor ++++i2   ;
*  : setval       ++++f4   ;
*  : ratedval     ++++f6   ;
*  : init_cond    ++++f8   ;
*  0          constant  S_OK
*  1e-15      VARIABLE  capblown
*  0.0        VARIABLE  flag
*  0.0        VARIABLE  r1Cur
*  0.0        VARIABLE  c1Voltage
*  0.0        VARIABLE  resistance
*  0          VARIABLE  cnt
*  1          VARIABLE  delaytime
*  0          VARIABLE  S_BLOWN
*
* : DELAY
*  *delaytime  0 do
*          *cnt 1+ ==>_*cnt
*          *cnt *delaytime =  if
*          *S_BLOWN 1 + ==>_*S_BLOWN
*          0 ==>_*cnt
*          endif
*   loop
*   *S_BLOWN ==>_*animation_state
* ;
*
* : RESET
*       delay_factor 10000 * ==>_*delaytime
*       0.0 ==>_*flag
*       0.0 ==>_*c1Voltage
*       0.0 ==>_*r1Cur
*       1e15 ==>_*resistance
*       S_OK   ==>_*animation_state
*       0 ==>_*S_BLOWN
* ;
*
*  :BEGIN_PLOT
*         RESET
*  ;
*
*  : C_BLOWN
*      *capblown  resistance   GRADUAL_CHANGE_AT_RUN
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value     SET_INSTANCE Resistor ::R r1 resistance
*  ;
*
*  :OUT_DATA
*   1.0 *flag f.> if
*     GET_INSTANCE Resistor ::R r1  i  ==>_*r1Cur
*     *r1Cur f.abs 1e30 f.* ==>_*c1Voltage
*     ratedval *c1Voltage f.< if
*          1.0 ==>_*flag
*          DELAY
*          DELAY
*          DELAY
*          DELAY
*          DELAY
*          C_BLOWN
*     endif
*   endif
*  ;
*
* :BEGIN_ANALYSIS
*     RESET
* ;
*
* !!!END-INTERACT
xC2 6 0 virtual_capC2
.subckt virtual_capC2 1 2
r1 1 2 1e30
c1 1 2 1e-007  IC=0
.ends

*## Multisim Component R7 ##*
rR7 0 5 100 vresR7  
.model vresR7 r(  )

*## Multisim Component U3 ##*
xU3 Vnoise 5 6 VEE VCC 741__OPAMP__1

*## Multisim Component V1 ##*
vV1 vp 0 dc 0 ac 1 0
+      distof1 0 0
+      distof2 0 0
+      sin(0 1 1000 0 0 0)

*## Multisim Component R2 ##*
rR2 vp 1 1000 vresR2  
.model vresR2 r(  )

*## Multisim Component R1 ##*
rR1 1 vm 1000 vresR1  
.model vresR1 r(  )

*## Multisim Component U1 ##*
xU1 vm 1 0 VEE VCC 741__OPAMP__1


.MODEL NPN__TRANSISTORS_VIRTUAL__1 NPN

.SUBCKT 741__OPAMP__1 1 2 3 4 5
* EWB Version 4 - 5 Terminal Opamp Model
* nodes: 3=+ 2=- 1=out 5=V+ 4=V-
* VCC= 15 VEE= -15 CC= 3e-011 A= 200000 RI= 2e+006
* RO= 75 VOS= 0.001 IOS= 2e-008 IBS= 8e-008
* VSW+= 14 VSW-= -14 CMMR= 90
* ISC= 0.025 SR= 0.5 Fu= 1e+006 Pm= 6.09112e-007
    VC 5 15 DC 1.68573V 
    VE 12 4 DC 1.68573V 
    IEE 10 4 DC 1.516e-005A
    R1  10  0 10Gohm 
    R6  11  0 100Kohm
    R7   5  4 1Kohm   
    Rc1  6  5 5305.16ohm  
    Rc2  5  7 5305.16ohm  
    Re1  9 10 1839.19ohm 
    Re2  8 10 1839.19ohm 
    Ro1  1 14 37.5ohm 
    Ro2 14  0 37.5ohm 
    Ree 10  0 1.31926e+007ohm 
    Rcc  0 13 2.20906e-005ohm 
    Cee  0 10 1e-012    
    Cc  14 11 3e-011    
    C1   6  7 1e-016    
    GA  11  0  6  7 0.000188496 
    GC   0 13  1  0 45268.1 
    GB  14  0 11  0 282.942 
    GCM  0 11 10  0 5.96075e-009 
    D1  14 13 Dopamp1 
    D2  13 14 Dopamp1 
    D3   1 15 Dopamp2 
    D4  12  1 Dopamp2 
    Qt1  6 2 9 Qopamp1 
    Qt2  7 3 8 Qopamp2 
.MODEL Dopamp1 D (Is=7.53769e-014A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Dopamp2 D (Is=8e-016A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Qopamp1 NPN (Is=8e-016A BF=83.3333 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.MODEL Qopamp2 NPN (Is=8.30948e-016A BF=107.143 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.ENDS


