** UnCompensated Circuit **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: majed
* Sun, Jun 14, 2020 16:46:30 
*

*## Multisim Component R5 ##*
rR5 Vout VEE 15000 vresR5  
.model vresR5 r(  )

*## Multisim Component R4 ##*
rR4 6 VEE 8.2 vresR4  
.model vresR4 r(  )

*## Multisim Component R3 ##*
rR3 9 VEE 8.2 vresR3  
.model vresR3 r(  )

*## Multisim Component Q5 ##*
qQ5 6 4 8 2N3906__BJT_PNP__1

*## Multisim Component VEE ##*
VEEVEE  VEE 0 dc -15

*## Multisim Component R16 ##*
rR16 VCC 1 10000 vresR16  
.model vresR16 r(  )

*## Multisim Component R2 ##*
rR2 9 5 18 vresR2  
.model vresR2 r(  )

*## Multisim Component R1 ##*
rR1 3 9 18 vresR1  
.model vresR1 r(  )

*## Multisim Component R18 ##*
rR18 VCC 8 10000 vresR18  
.model vresR18 r(  )

*## Multisim Component Q3 ##*
qQ3 VCC 6 Vout NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component VCC ##*
VCCVCC  VCC 0 dc 15

*## Multisim Component Q2 ##*
qQ2 4 7 5 NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component Q1 ##*
qQ1 1 2 3 NPN__TRANSISTORS_VIRTUAL__1

*## Multisim Component R17 ##*
rR17 VCC 4 10000 vresR17  
.model vresR17 r(  )


.MODEL NPN__TRANSISTORS_VIRTUAL__1 NPN

.MODEL 2N3906__BJT_PNP__1   PNP(Is=1.41f Xti=3 Eg=1.11 Vaf=18.7 Bf=180.7 Ne=1.5 Ise=0
+               Ikf=80m Xtb=1.5 Br=4.977 Nc=2 Isc=0 Ikr=0 Rc=2.5 Cjc=9.728p
+               Mjc=.5776 Vjc=.75 Fc=.5 Cje=8.063p Mje=.3677 Vje=.75 Tr=33.42n
+               Tf=179.3p Itf=.4 Vtf=4 Xtf=6 Rb=10)


